Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:11](/[C:8]([C:6](=[O:5])[H:7])([H:9])[H:10])[H:12]>>[H:1][O:2][C@:3]1([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1[H:12],2.1923464016
[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],0.54592402554
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],3.7960332846900022
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])([C:8][H:14])[H:13].[H:1][C:2]([H:3])=[C:4][C:9]([H:10])([C:11])[H:12],7.241661208139999
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4][H:5].[O:6]=[C:7]([H:8])[C:9]([H:10])[H:11],3.63108652055
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.39878412261
[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-4.79494377479
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:9]([H:10])[H:11].[H:8],4.82810332486
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9],7.85554716753
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:6][H:7]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.52417035661
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],1.99513995578
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7],3.7581893734400023
[H:5].[O:1]=[C:2][O:3]/[C:4]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-5.07818671117
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],1.3751785088799997
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1][C:2]#[C:3][H:4],1.41406653636
[H:8].[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11],-5.11742305014
[H:17].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.55955960468
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:8]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.562027816830001
[H:1][C:2]([H:3])([H:4])[C:5](=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:14]([H:15])([H:16])[H:17],1.13869426989
[H:1][C:2]([H:3])[O:4][C@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])[O:10][C:11]([H:12])[H:13],2.1029479167700003
[C:6][C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3]([H:4])=[C:5]>>[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-8.12533591668
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([O:4][C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2],6.87191597995
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12].[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.64138145199
[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],2.37719836273
[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],1.2357156678
[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:5],1.18489358124
[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.29084518258
